US05559111
e) 4-Tert-butyl-3-(3-methoxypropoxy)-bromobenzene
A suspension of 2.60 g of 5-bromo-2-tert-butyl-phenol, 4.34 g of 3-methoxypropyl bromide and 5.55 g of caesium carbonate in 40 ml of acetone is stirred at 60° C. overnight. After cooling to room temperature, the mixture is filtered and the crude product obtained after concentration of the filtrate is purified by means of FC (80 g of silica gel, hexane/ethyl acetate=98:2). The title compound is obtained in the form of an oil: Rf (hexane/ethyl acetate=9:1)=0.56.

reactant | 5-bromo-2-tert-butyl-phenol | 2.60 g | BrC=1C=CC(=C(C1)O)C(C)(C)C | C10H13BrO
reactant | 3-methoxypropyl bromide | 4.34 g | COCCCBr | C4H9BrO
reactant | caesium carbonate | 5.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-Tert-butyl-3-(3-methoxypropoxy)-bromobenzene | C(C)(C)(C)C1=C(C=C(C=C1)Br)OCCCOC | C14H21BrO2
